US07897597B2
(2-Amino-2-methylpropyl)-(7-benzyloxy-3-nitroquinolin-4-yl)amine (5.29 g, 14.44 mmol) was stirred in 100 mL of THF and sodium hydroxide (0.64 g in 50 mL of water) was added. Next, 3.82 g of di-tert-butyl dicarbonate in 50 mL of THF was added dropwise and the reaction was stirred for 24 hours at ambient temperature. Analysis of the reaction by TLC indicated that starting material was still present. An additional 0.55 g of di-tert-butyl dicarbonate in 20 mL of THF was added and the reaction was stirred for another 24 hours. The THF was removed under reduced pressure and dichloromethane was added. The organic fraction was separated from the aqueous fraction. The organic fraction was then sequentially washed with water followed by brine; dried over magnesium sulfate; filtered; and concentrated under reduced pressure to yield 7.04 g of tert-butyl [2-(7-benzyloxy-3-nitroquinolin-4-ylamino)-1,1-dimethylethyl]carbamate as a yellow foam.

reactant | (2-Amino-2-methylpropyl)-(7-benzyloxy-3-nitroquinolin-4-yl)amine | 14.44 mmol, 5.29 g | NC(CNC1=C(C=NC2=CC(=CC=C12)OCC1=CC=CC=C1)[N+](=O)[O-])(C)C | C20H22N4O3
reactant | sodium hydroxide | 50 mL, 0.64 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 3.82 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 0.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl [2-(7-benzyloxy-3-nitroquinolin-4-ylamino)-1,1-dimethylethyl]carbamate | 7.04 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(C)NC(OC(C)(C)C)=O | C25H30N4O5
